US06221604B1
Cyclization substrate 5 is synthesized in FIG. 1. The Suzuki reaction is iterated, first by coupling 1,3-dimethoxyphen-2-yl boronic acid with 2-bromotoluene with tetrakis(triphenylphosphine) palladium catalysis to give biphenyl compound 1. Regioselective bromination of 1 gave 2, followed by Suzuki reaction with pyridine-3-boronic acid under palladium catalysis to yield 3. Demethylation of 3 with hydrobromic acid and acetic acid gave 4, followed by Friedel-Crafts acylation with 2,5-dichlorotrimellitic anhydride to yield 5.

reactant | boronic acid | B(O)O | BH3O2
reactant | 2-bromotoluene | BrC1=C(C=CC=C1)C | C7H7Br
catalyst | tetrakis(triphenylphosphine) palladium | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | biphenyl | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
